US07253196B2
2-(bicyclo[2.2.1]hept-2-ylamino)-5-(4-hydroxybenzyl)-1,3-thiazol-4(5H)-one
Synthesis was performed from (2S)-2-amino-3-(4-hydroxyphenyl)propanoic acid and N-bicyclo[2.2.1]hept-2-ylthiourea according to Method E and C.

reactant | (2S)-2-amino-3-(4-hydroxyphenyl)propanoic acid | N[C@H](C(=O)O)CC1=CC=C(C=C1)O | C9H11NO3
reactant | N-bicyclo[2.2.1]hept-2-ylthiourea | C12C(CC(CC1)C2)NC(=S)N | C8H14N2S
product | 2-(bicyclo[2.2.1]hept-2-ylamino)-5-(4-hydroxybenzyl)-1,3-thiazol-4(5H)-one | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)CC2=CC=C(C=C2)O | C17H20N2O2S
